US07915424B2
1-(5-Phenylethynylpyridin-3-yl)-ethanone
Add methylmagnesium bromide (1.25 mL, 3.7 mmol) dropwise at 0° C. to a solution of N-methoxy-N-methyl-5-phenylethynylnicotinamide, (prepared essentially as described in PREPARATION 2), (1.0 g, 3.76 mmol). Allow the mixture to warn to room temperature overnight. Dilute with ethyl acetate and saturated ammonium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 10:90 to 30:70 tetrahydrofuran:hexanes) to give title compound as a white solid (0.70 g, 84%).

reactant | methylmagnesium bromide | 3.7 mmol, 1.25 mL | C[Mg]Br
reactant | N-methoxy-N-methyl-5-phenylethynylnicotinamide | CON(C(C1=CN=CC(=C1)C#CC1=CC=CC=C1)=O)C | C16H14N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-(5-Phenylethynylpyridin-3-yl)-ethanone | 0.70 g, 84% | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C(C)=O | C15H11NO
